US04294841
The procedure is as in Example 6 starting from 51.1 g of 3-(1-benzoyl 4-piperidyl) 1-(3,4-dichlorophenyl) 1-propanone. 15.3 g of 4-[3-(3,4-dichlorophenyl)1-propyl]piperidine in the form of the hydrochloride melting at 150° C. are obtained.

reactant | 3-(1-benzoyl 4-piperidyl) 1-(3,4-dichlorophenyl) 1-propanone | 51.1 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCC(=O)C1=CC(=C(C=C1)Cl)Cl | C21H21Cl2NO2
reactant | hydrochloride | Cl | ClH
product | 4-[3-(3,4-dichlorophenyl)1-propyl]piperidine | 15.3 g | ClC=1C=C(C=CC1Cl)CCCC1CCNCC1 | C14H19Cl2N
